US09260422B2
1-[6-(3,4-Dichloro-phenyl)-pyrimidin-4-yl]-pyrrolidine-2-(R)-carboxylic acid
4-Chloro-6-(3,4-dichloro-phenyl)-pyrimidine (0.3 g, 1.2 mmol) and D-proline (0.13 g, 1.2 mmol) were added in one portion to a pressure vessel containing a solution of copper (I) Iodide (0.02 g, 0.16 mmol) and potassium carbonate (0.24 g, 1.8 mmol) in DMA (5 ml). The vessel was sealed and heated at 90° C. for 16 hours before being cooled to room temperature. The mixture was cooled to room temperature, diluted with ethyl acetate (10 ml) and acidified to pH 1 with concentrated HCl. The mixture was extracted with ethyl acetate (3×30 ml) and the organic layers were combined, dried (MgSO4), filtered, concentrated and the resulting residue was purified by prep HPLC to give the title compound (0.17 g, 43% yield) as a white solid.

reactant | 4-Chloro-6-(3,4-dichloro-phenyl)-pyrimidine | 1.2 mmol, 0.3 g | ClC1=NC=NC(=C1)C1=CC(=C(C=C1)Cl)Cl | C10H5Cl3N2
reactant | D-proline | 1.2 mmol, 0.13 g | N1[C@@H](C(=O)O)CCC1 | C5H9NO2
reactant | potassium carbonate | 1.8 mmol, 0.24 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | Cl | ClH
solvent | DMA | 5 ml | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) Iodide | 0.16 mmol, 0.02 g | [Cu]I
product | 1-[6-(3,4-Dichloro-phenyl)-pyrimidin-4-yl]-pyrrolidine-2-(R)-carboxylic acid | 0.17 g, 43% yield | ClC=1C=C(C=CC1Cl)C1=CC(=NC=N1)N1[C@H](CCC1)C(=O)O | C15H13Cl2N3O2
